US05081131
A mixture consisting of 9.9 grams of 6-bromobenz(cd)indol-2one, 5 grams of cuprous cyanide and 100 ml of dry dimethylformamide was stirred and heated under reflux for 20 hours. The hot mixture was filtered, and the filtrate, after cooling, gave 3.2 grams of 6-cyanobenz (cd)indol-2-one, m.p. 315° C., with decomposition. Treatment of the latter compound with 2.2 grams of phosphorous pentasulfide in 100 ml of refluxing pyridine for 18 hours, concentrating to dryness and treating with water gave 2.8 grams of crude 6-cyanobenz(cd)indol-2-thione. A portion recrystallized from acetic acid melted above 320° C. 2.8 grams of 6-cyanobenz(cd)indol-2-thione, 1.7 grams of 3-(1H-imidazolyl)propylamine, 4.2 grams of mercuric acetate, 100 ml of ethanol and 20 ml of dimethylformamide were combined and heated under reflux for 7 hours. The hot reaction mixture was filtered through diatomaceous earth, and the cake washed with 25 ml of hot dimethylformamide. The filtrate was then concentrated to dryness in vacuo. The residue was shaken with 50 ml of 5N sodium hydroxide and the mixture extracted three times with 100 ml portions of chloroform. The combined chloroform extracts were dried over sodium sulfate and the chloroform removed in vacuo. The yellow residue was recrystallized from methanol, yielding 1.9 g of N-(3-(1H-imidazol-1-yl)propyl)-2-aminobenz(cd)indol-6-carbonitrile melting at 214°C.-215° C. and analyzing as the 1/4 hydiate.

reactant | 6-bromobenz(cd)indol-2one | 9.9 grams | BrC=1C=2C3=C(C(NC3=CC1)=O)C=CC2 | C11H6BrNO
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 6-cyanobenz (cd)indol-2-one | 3.2 grams | C(#N)C=1C=2C3=C(C(NC3=CC1)=O)C=CC2 | C12H6N2O
